US09238640B2
Preparation of 5,7-Dimethoxy-2-(4-(4-(thiophene-2-carbonyl)piperazin-1-yl)phenyl)quinazolin-4(3H)-one
To a solution of 2-thiophenecarboxylic acid (0.087 g, 0.68 mmol) in THF (20 mL) was added HOBt (0.099 g, 0.74 mmol), EDCl (0.141 g, 0.74 mmol), Et3N (0.10 mL, 0.74 mmol) and 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.250 g, 0.68 mmol). The resulting solution was stirred at room temperature for 4 hours. The solution was concentrated in vacuo. The material was purified by flash chromatography, eluting with 0% to 50% of 92:7:1 CHCl3/MeOH/concentrated NH4OH in CH2Cl2, to afford the title compound (0.100 g, 30%). 1H NMR (300 MHz, DMSO-d6): δ 11.78 (s, 1H), 8.12 (d, J=9.0 Hz, 2H), 7.75-7.84 (m, 1H), 7.46-7.53 (m, 1H), 7.12-7.20 (m, 1H), 7.03 (d, J=9.1 Hz, 2H), 6.69 (d, J=2.3 Hz, 1H), 6.47 (d, J=2.3 Hz, 1H), 3.88 (s, 3H), 3.83 (s, 3H), 3.74-3.92 (m, 4H), 3.37-3.49 (m, 4H). APCI MS m/z 477 [M+H]+.

reactant | 2-thiophenecarboxylic acid | 0.68 mmol, 0.087 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | HOBt | 0.74 mmol, 0.099 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.74 mmol, 0.141 g | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 0.74 mmol, 0.10 mL | CCN(CC)CC | C6H15N
reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.68 mmol, 0.250 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5,7-Dimethoxy-2-(4-(4-(thiophene-2-carbonyl)piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.100 g, 30% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCN(CC1)C(=O)C=1SC=CC1)=O | C25H24N4O4S
